US04808210
0.7 g of 1-(3,5-dichlorophenyl)-3-chloro-4-(1-methylpropyl)-5-pyrazolone and 0.7 g of potassium carbonate were cooled to -20° C. and 0.7 g of 75% m-chloroperbenzoic acid were added all at once. The procedure of Example 46 was followed to obtain 0.34 g of 1-(3,5-dichlorophenyl)-3-chloro-4-hydroxy-4-(1-methylpropyl)-5-pyrazolone used as is for the next step.

reactant | 1-(3,5-dichlorophenyl)-3-chloro-4-(1-methylpropyl)-5-pyrazolone | 0.7 g | ClC=1C=C(C=C(C1)Cl)N1NC(=C(C1=O)C(CC)C)Cl | C13H13Cl3N2O
reactant | potassium carbonate | 0.7 g | C([O-])([O-])=O.[K+].[K+]
reactant | m-chloroperbenzoic acid | 0.7 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
product | 1-(3,5-dichlorophenyl)-3-chloro-4-hydroxy-4-(1-methylpropyl)-5-pyrazolone | 0.34 g | ClC=1C=C(C=C(C1)Cl)N1N=C(C(C1=O)(C(CC)C)O)Cl | C13H13Cl3N2O2
